US06489476B1
A solution of AlCl3 (5 mmole) in EtSH (10 mL) was cooled to 0° C. and treated with 2-amino-4-methoxybenzothiazole (1 mmole). The mixture was stirred at 0-5° C. for 2 h. Evaporation and extraction gave 2-amino-4-hydroxybenzothiazole as white solid.

reactant | AlCl3 | 5 mmole | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-amino-4-methoxybenzothiazole | 1 mmole | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
solvent | EtSH | 10 mL | CCS | C2H6S
product | 2-amino-4-hydroxybenzothiazole | NC=1SC2=C(N1)C(=CC=C2)O | C7H6N2OS
